Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine
 
Attending: ___.
 
Chief Complaint:
Post adrenal ablation pain/HTN
 
Major Surgical or Invasive Procedure:
Right adrenal ablation

 
History of Present Illness:
Mr. ___ is a ___ ___ male with h/o prostate carcinoma 
s/p
prostatectomy, RCC s/p R partial nephrectomy, h/o difficult to
control HTN, and hypokalemia with hyperfunctioning R adrenal
adenoma who presented to ___ for R adrenal ablation and is now
being managed for ___ pain and HTN. 

He has had difficult to control hypertension for ___s hypokalemia. In the past, his SBP range was in the ___.
Biochemical w/u with Dr. ___ elevated
aldosterone level with suppressed renin and high PRA ratio.
Plasma metanephrines were normal. ___ imaging
revealed a R sided adrenal adenoma measuring 17x21 mm. Adrenal
vein sampling on ___ showed significant lateralization to
the R side. His R adrenal adenoma was ablated with 
radiofrequency
by ___ on ___. Periop course notable for SBP elevated to
300s. Post op, his BP was 158/94 controlled with 10 mg IV
hydralazine and 30 mg IV labetalol.  

Upon arrival to the floor, the patient reports pain at his
incision site (R side) as well as a R sided temporal headache
with occasional tingling of the R half of his face up to the
level of his nose. He describes the headache as ___ PS and
constant, but improving. He denies past hx of headaches. In
addition, he reports dizziness where he is spinning as opposed 
to
the room. The dizziness is getting better.

REVIEW OF SYSTEMS:
(+) as per HPI
(-) He denies vision changes, hearing changes, muscle weakness,
polyuria, polydipsia, peripheral edema, chest pain, 
palpitations,
SOB, fevers, chills, n/v, confusion. 

 
Past Medical History:
- Gout
- Nephrolithiasis
- HTN and hypokalemia with hyperaldosteronism
- R Adrenal Venous Sampling 
- RCC s/p R partial nephrectomy
- Prostate carcinoma s/p robotic prostatectomy  
 
Social History:
___
Family History:
Mother: decreased, diabetes & HTN
Mother: deceased, CAD/PVD, HTN
Brother: liver cancer
3 siblings with HTN, 1 with diabetes
No family history of kidney or adrenal cancer
 
Physical Exam:
Admission Exam:

VS: T 98.1, BP 126 / 65, HR 73, RR 18, O2 sat 96% Ra 
GENERAL: NAD, sitting comfortably in bed
HEENT: AT/NC, PERRL, anicteric sclera, MMM, good dentition
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
EXTREMITIES: +1 pitting edema ___ ___, no cyanosis or clubbing, 
wwp
NEURO: CN ___ intact, equal sensation on both sides of face 

Discharge Exam:
VS: T 97.8, BP 163 / 97, HR 80, RR 18, O2 sat 98% Ra 
GENERAL: NAD, sitting comfortably in bed
HEENT: AT/NC, PERRL, anicteric sclera, MMM, good dentition
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
EXTREMITIES: no edema, cyanosis or clubbing, wwp
NEURO: CN ___ intact, equal sensation on both sides of face,  

MENTAL STATUS: A&Ox3, speech is fluent and responds 
appropriately to questions
 
Pertinent Results:
ADMISSION LABS

___ 06:30AM BLOOD ___ 
___ Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___ ___
___ 06:30AM BLOOD ___ 
___
___ 06:30AM BLOOD ___

DISCHARGE LABS

___ 06:30AM BLOOD ___ 
___ Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___ ___
___ 06:30AM BLOOD ___ 
___
___ 06:30AM BLOOD ___

MICROBIOLOGY

None

IMAGING

CT Interventional Procedure (Ablation) ___

Findings:
1. Minimal right basal atelectasis. 
2. ___ nodule measuring 2.2 cm.  More medial limb is 
nodular. 
3. Cortical probable surgical scar within the interpolar region 
of the right kidney. 
4. Expected minimal fat stranding and foci of gas at the 
ablation site 
postprocedure. 
5. No retroperitoneal or intraperitoneal hemorrhage 
postprocedure. 

Impression:
Successful radiofrequency ablation right adrenal gland nodules. 

CT Head W/O Contrast ___

Findings: 
There is no evidence of acute infarction, hemorrhage, edema, or 
mass. There is prominence of the ventricles and sulci suggestive 
of involutional changes. Periventricular and subcortical white 
matter hypodensities are nonspecific, however likely due to 
chronic small vessel ischemic disease in this age group. There 
is no evidence of acute fracture.  The visualized portion of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The visualized portion of the orbits are 
unremarkable. 
  
Impression:
1.  There is no evidence of acute intracranial process or 
hemorrhage. 
2.  Relatively stable periventricular and subcortical white 
matter hypodensities, which are nonspecific and may reflect 
changes due to small vessel disease. 

 
Brief Hospital Course:
Mr. ___ is a ___ ___ male with h/o prostate carcinoma 
s/p
prostatectomy, RCC s/p R partial nephrectomy, h/o difficult to
control HTN, and hypokalemia with hyperfunctioning R adrenal
adenoma who presented to ___ for R adrenal ablation. The 
procedure was performed without complication, however he had 
reported SBPs to the 300s perioperatively managed with 10 mg IV 
hydralazine and 30 mg IV labetalol with reduction to 158/94. He 
had some pain ___ which resolved, and his blood pressures 
have decreased to 162/92 at discharge. 

ACUTE/ACTIVE PROBLEMS:
# Right Adrenal Adenoma
The patient has had a history of difficult to control 
hypertension and hypokalemia with a hyperfunctioning right 
adrenal adenoma followed by Dr. ___. He underwent a right 
adrenal ablation on ___. The procedure was performed without 
complication, however he had reported SBPs to the 300s 
perioperatively managed with 10 mg IV hydralazine and 30 mg IV 
labetalol with reduction to 158/94. He has a follow up 
scheduled with his endocrinologist. He will be discharged on 
home doses of labetalol and hydralazine.

# Post Operative Pain:
Patient reported focal pain at incision site and headache after 
the procedure. He had no focal neurologic deficits and a normal 
clinical exam. These symptoms resolved with one dose of 5 mg 
oxycodone and Tylenol. On day of discharge, his headache had 
resolved and he had no further pain at site of operation. He 
will be discharged with Tylenol as needed.

# Hypertension
The patient has had a history of difficult to control 
hypertension, likely releated to hyperaldosteronism in the 
past. He has been controlled with bumetanide, spironolactone, 
labetalol, and hydralazine in the past, however on admission he 
was taking only hydralazine and labetalol. Perioperatively his 
blood pressures were reported to have increased to 300s 
systolic and were reduced to 150s systolic with IV hydralazine 
and labetalol. Post operatively he reported a constant headache 
on the right side with no vision/ hearing changes, focal 
neurologic deficits, or n/v concerning for hypertensive 
emergency/urgency. Clinical exam was notable only for +1 
pitting edema in bilateral lower extremities but he was 
otherwise alert & oriented with stable vital signs aside from 
moderately elevated blood pressures to 170s systolic. This pain 
was felt to be most likely due to post operative pain. He will 
be discharged with hydralazine and labetalol at his home doses 
given continued hypertension with close follow up with his 
endocrinologist on ___. He was given instructions to monitor 
his BP closely over the weekend and present to the ED with any 
SBP over 200. Additionally, discussed monitoring blood pressure 
for hypotension over the weekend and holding hydralazine for 
hypotension. 

# Dizziness
Patient reported dizziness without focal neurologic deficits 
and had no PMH of vertigo. This was felt to be likely ___ 
medications given in the PACU. Symptoms resolved with no 
intervention.

CHRONIC/STABLE PROBLEMS:
========================
# Gout: 
Monitored. No acute signs of gout.

Transitional Issues:
===============================
[ ] Close BP monitoring over the weekend
[ ] Follow up appointment with endocrinologist on ___
[ ] Follow up appointment with PCP
[ ] Follow up appointment with Interventional Radiology
[ ] Consider reevaluating antihypertensive regimen s/p adrenal 
ablation

Full Code (presumed)
Name of health care proxy: ___ 
Relationship: wife 
Cell phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrALAZINE 25 mg PO TID 
2. Labetalol 300 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*28 Capsule Refills:*0 
2.  HydrALAZINE 25 mg PO TID  
3.  Labetalol 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Adrenal Adenoma
Hypertension
Hyperaldosteronism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of ___ during your stay at ___.

WHY WAS I HERE?
-___ came to the hospital to have an ablation of your right 
adrenal.

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
-The operation was done successfully.

WHAT SHOULD I DO WHEN I GO HOME?
- ___ should take your blood pressure medicines (hydralazine and 
labetalol)
- ___ should check your blood pressure 3 times a day this 
weekend until ___ see your endocrinologist
- If your systolic blood pressure (top number) is less than 110, 
___ should skip a dose of your hydralazine
- If your blood pressure is over 200, or if ___ develop a new 
headache or blurry vision, ___ should go to the emergency room
- ___ should go to your appointment with your PCP
- ___ should go to your appointment with your endocrinologist
- ___ should go to your appointment with the Interventional 
Radiologist

Be well!

Your ___ team
 
Followup Instructions:
___